US04053425
Magnesium sulfanilate was prepared by reacting magnesium carbonate with sulfanilic acid in a mole ratio of 1:2 by heating to remove water and carbon dioxide.

reactant | magnesium carbonate | C([O-])([O-])=O.[Mg+2]
reactant | sulfanilic acid | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
product | Magnesium sulfanilate | S(=O)(C1=CC=C(C=C1)N)(=O)[O-].[Mg+2].S(=O)(C1=CC=C(C=C1)N)(=O)[O-] | InChI=1S/2C6H7NO3S.Mg/c2*7-5-1-3-6(4-2-5)11(8,9)10;/h2*1-4H,7H2,(H,8,9,10);/q;;+2/p-2
